US07638541B2
Step 4: 4-[5-(4-Methanesulfonyl-phenoxymethyl)-[1,2,4]oxadiazol-3-yl]-piperidine-1-carboxylic acid tert-butyl ester
A mixture of 4-(5-methanesulfonyloxymethyl-[1,2,4]oxadiazol-3-yl)-piperidine-1-carboxylic acid tert-butyl ester (0.12 g, 0.33 mmol), 4-methanesulfonyl-phenol (86 mg, 0.5 mmol) and Cs2CO3 (0.33 g, 1 mmol) in acetonitrile (5 mL) was heated at 50° C. for 2 hours. After cooling, the solid was filtered through a pad of celite. The filtrate was concentrated in vacuo. The residue was purified on silica gel (EtOAc-hexanes, 1:1) to afford the desired product. 1H NMR (CDCl3): δ 7.9 (2H, d, J=8.8 Hz), 7.12 (2H, d, J=8.8 Hz), 5.34 (2H, s), 4.2˜4.05 (2H, m), 3.03 (3H, s), 3.04˜2.85 (3H, m), 2.05˜1.96 (2H, m), 1.8˜1.7 (2H, m), 1.45 (9H, s).

reactant | 4-(5-methanesulfonyloxymethyl-[1,2,4]oxadiazol-3-yl)-piperidine-1-carboxylic acid tert-butyl ester | 0.33 mmol, 0.12 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NOC(=N1)COS(=O)(=O)C | C14H23N3O6S
reactant | 4-methanesulfonyl-phenol | 0.5 mmol, 86 mg | CS(=O)(=O)C1=CC=C(C=C1)O | C7H8O3S
reactant | Cs2CO3 | 1 mmol, 0.33 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 4-[5-(4-Methanesulfonyl-phenoxymethyl)-[1,2,4]oxadiazol-3-yl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NOC(=N1)COC1=CC=C(C=C1)S(=O)(=O)C | C20H27N3O6S
